US08729095B2
To a 1,4-dioxane solution (99 ml) of benzyl 4-bromo-2-methylbenzoate (6.63 g) were added at room temperature 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)phenol (4.86 ml), tripotassium phosphate hydrate (16.8 g), a [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium-dichloromethane complex (860 mg) and 1,1′-bis(diphenylphosphino)ferrocene (584 mg), followed by stirring at 80° C. for 8 hours. After the reaction solution was brought back to room temperature, a 10% aqueous citric acid solution and dichloromethane were added, and the solution was separated. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford benzyl 2′-hydroxy-3-methylbiphenyl-4-carboxylate (6.01 g).

reactant | benzyl 4-bromo-2-methylbenzoate | 6.63 g | BrC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C15H13BrO2
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)phenol | 4.86 ml | CC1(OB(OC1(C)C)C1=C(C=CC=C1)O)C | C12H17BO3
reactant | tripotassium phosphate hydrate | 16.8 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 584 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 99 ml | O1CCOCC1 | C4H8O2
product | benzyl 2′-hydroxy-3-methylbiphenyl-4-carboxylate | 6.01 g | OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OCC1=CC=CC=C1)C | C21H18O3
